US06114330
22.5 ml of an about 1.6M solution of butyllithium are slowly added dropwise at -78° C. to a solution of 2.46 g of furan in 30 ml of tetrahydrofuran. The mixture is stirred at -78° C. for 20 min., then at -20° C. for 2 hrs. The solution is again cooled to -78° C. and treated slowly with a solution of 4.68 g of phthalazine in 36 ml of tetrahydrofuran. The mixture is stirred at -78° C. for 2 hrs., then poured on to about 500 ml of ice-water and extracted 4 times with 150 ml of ethyl acetate each time. The organic phases are dried, concentrated and the residue is chromatographed immediately on 120 g of silica gel; eluent: hexane/ethyl acetate 3:7. 4.08 g of dark, impure 1-furan-2-yl-1,2-dihydrophthalazine are isolated.

reactant | butyllithium | C(CCC)[Li]
reactant | furan | 2.46 g | O1C=CC=C1 | C4H4O
reactant | phthalazine | 4.68 g | C1=NN=CC2=CC=CC=C12 | C8H6N2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
product | 1-furan-2-yl-1,2-dihydrophthalazine | O1C(=CC=C1)C1NN=CC2=CC=CC=C12 | C12H10N2O
